Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[S:1]([CH3:2])(=[O:3])=[O:4].[CH3:5][C:6]([CH3:8])([CH3:7])[C:9](=[O:10])[O:11][CH2:12][C@H:13]1[O:14][C@@H:15]([O:16][c:17]2[n:18][nH:19][c:20]3[n:21][cH:22][cH:23][c:24]([CH2:25][CH2:26][c:27]4[cH:28][cH:29][c:30]([O:31][CH2:32][CH2:33][CH2:34][OH:35])[cH:36][cH:37]4)[c:38]23)[C@H:39]([O:40][C:41](=[O:42])[C:43]([CH3:44])([CH3:45])[CH3:46])[C@@H:47]([O:48][C:49](=[O:50])[C:51]([CH3:52])([CH3:53])[CH3:54])[C@@H:55]1[O:56][C:57](=[O:58])[C:59]([CH3:60])([CH3:61])[CH3:62]>>[S:1]([CH3:2])(=[O:3])(=[O:4])[O:35][CH2:34][CH2:33][CH2:32][O:31][c:30]1[cH:29][cH:28][c:27]([CH2:26][CH2:25][c:24]2[cH:23][cH:22][n:21][c:20]3[nH:19][n:18][c:17]([O:16][C@@H:15]4[O:14][C@H:13]([CH2:12][O:11][C:9]([C:6]([CH3:5])([CH3:7])[CH3:8])=[O:10])[C@@H:55]([O:56][C:57](=[O:58])[C:59]([CH3:60])([CH3:61])[CH3:62])[C@H:47]([O:48][C:49](=[O:50])[C:51]([CH3:52])([CH3:53])[CH3:54])[C@H:39]4[O:40][C:41](=[O:42])[C:43]([CH3:44])([CH3:45])[CH3:46])[c:38]23)[cH:37][cH:36]1,[CH3:5][C:6]([CH3:7])([CH3:8])[C:9](=[O:10])[O:11][CH2:12][C@H:13]1[O:14][C@@H:15]([O:16][c:17]2[n:18][nH:19][c:20]3[n:21][cH:22][cH:23][c:24]([CH2:25][CH2:26][c:27]4[cH:28][cH:29][c:30]([O:31][CH2:32][CH2:33][CH2:34][OH:35])[cH:36][cH:37]4)[c:38]23)[C@H:39]([O:40][C:41](=[O:42])[C:43]([CH3:44])([CH3:45])[CH3:46])[C@@H:47]([O:48][C:49](=[O:50])[C:51]([CH3:52])([CH3:53])[CH3:54])[C@@H:55]1[O:56][C:57](=[O:58])[C:59]([CH3:60])([CH3:61])[CH3:62].[Cl:101][S:1]([CH3:2])(=[O:3])=[O:4].[H-:301].[Na+]>>[S:1]([CH3:2])(=[O:3])(=[O:4])[O:35][CH2:34][CH2:33][CH2:32][O:31][c:30]1[cH:29][cH:28][c:27]([CH2:26][CH2:25][c:24]2[cH:23][cH:22][n:21][c:20]3[nH:19][n:18][c:17]([O:16][C@@H:15]4[O:14][C@H:13]([CH2:12][O:11][C:9]([C:6]([CH3:5])([CH3:7])[CH3:8])=[O:10])[C@@H:55]([O:56][C:57](=[O:58])[C:59]([CH3:60])([CH3:61])[CH3:62])[C@H:47]([O:48][C:49](=[O:50])[C:51]([CH3:52])([CH3:53])[CH3:54])[C@H:39]4[O:40][C:41](=[O:42])[C:43]([CH3:44])([CH3:45])[CH3:46])[c:38]23)[cH:37][cH:36]1,alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 35.1), ([35.1, 35], 35), (35, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@@H:2]([O:3][c:4]1[cH:5][cH:6][cH:7][c:8]2[n:9][cH:10][n:11][c:12]([NH:13][c:14]3[cH:15][cH:16][c:17]([O:18][c:19]4[cH:20][cH:21][c:22]([CH3:23])[n:24][cH:25]4)[c:26]([CH3:27])[cH:28]3)[c:29]12)[CH3:30])=[O:31].[NH2:32][CH2:33][CH2:34][OH:35]>>[C:1]([C@@H:2]([O:3][c:4]1[cH:5][cH:6][cH:7][c:8]2[n:9][cH:10][n:11][c:12]([NH:13][c:14]3[cH:15][cH:16][c:17]([O:18][c:19]4[cH:20][cH:21][c:22]([CH3:23])[n:24][cH:25]4)[c:26]([CH3:27])[cH:28]3)[c:29]12)[CH3:30])(=[O:31])[NH:32][CH2:33][CH2:34][OH:35],[OH:101][C:1]([C@@H:2]([O:3][c:4]1[cH:5][cH:6][cH:7][c:8]2[n:9][cH:10][n:11][c:12]([NH:13][c:14]3[cH:15][cH:16][c:17]([O:18][c:19]4[cH:20][cH:21][c:22]([CH3:23])[n:24][cH:25]4)[c:26]([CH3:27])[cH:28]3)[c:29]12)[CH3:30])=[O:31].[NH2:32][CH2:33][CH2:34][OH:35].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@@H:2]([O:3][c:4]1[cH:5][cH:6][cH:7][c:8]2[n:9][cH:10][n:11][c:12]([NH:13][c:14]3[cH:15][cH:16][c:17]([O:18][c:19]4[cH:20][cH:21][c:22]([CH3:23])[n:24][cH:25]4)[c:26]([CH3:27])[cH:28]3)[c:29]12)[CH3:30])(=[O:31])[NH:32][CH2:33][CH2:34][OH:35],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (32, 1), ([1, 31], 31), (303, 32.1), ([32.1, 32], 32), (31, [31, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[n:3][n:4](-[c:5]2[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]2)[c:12]2[c:13]1[cH:14][c:15](-[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][n:24][cH:25][cH:26][c:27]21.[CH3:28][C:29]([CH3:30])([CH3:31])[O:32][C:33](=[O:34])[N:35]1[CH2:36][CH2:37][CH:38]([NH2:39])[CH2:40][CH2:41]1>>[CH2:1]([c:2]1[n:3][n:4](-[c:5]2[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]2)[c:12]2[c:13]1[cH:14][c:15](-[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][n:24][cH:25][cH:26][c:27]21)[NH:39][CH:38]1[CH2:37][CH2:36][N:35]([C:33]([O:32][C:29]([CH3:28])([CH3:30])[CH3:31])=[O:34])[CH2:41][CH2:40]1,[O:101]=[CH:1][c:2]1[n:3][n:4](-[c:5]2[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]2)[c:12]2[c:13]1[cH:14][c:15](-[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][n:24][cH:25][cH:26][c:27]21.[CH3:28][C:29]([CH3:30])([CH3:31])[O:32][C:33](=[O:34])[N:35]1[CH2:36][CH2:37][CH:38]([NH2:39])[CH2:40][CH2:41]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[n:3][n:4](-[c:5]2[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]2)[c:12]2[c:13]1[cH:14][c:15](-[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][n:24][cH:25][cH:26][c:27]21)[NH:39][CH:38]1[CH2:37][CH2:36][N:35]([C:33]([O:32][C:29]([CH3:28])([CH3:30])[CH3:31])=[O:34])[CH2:41][CH2:40]1,reductive_amination,"[(39, 1), ([1, 101], 301), (101, 39.1), ([39.1, 39], 39), (39, [39, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 39], 39)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
